US07482469B2
B: 4′-methyl-biphenyl-3-ylamine
4′-Methyl-3-nitro-biphenyl (1.9 g) dissolved in isopropyl alcohol (30 mL) and iron (III) chloride (0.19 g) added followed by charcoal (0.19 g). Mixture heated to 65° C. before adding hydrazine hydrate (7.6 mL) slowly for 45 minutes under nitrogen. Mixture stirred for a further 2 hours at 70° C. Mixture filtered and washed with ethyl acetate. Organics combined and washed with water (50 mL) and brine (50 mL) before drying over sodium sulfate, filtering and evaporating to dryness to leave a yellow solid (1.55 g, 95%).

reactant | 4′-Methyl-3-nitro-biphenyl | 1.9 g | CC1=CC=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C13H11NO2
reactant | charcoal | 0.19 g | C | CH4
reactant | hydrazine hydrate | 7.6 mL | O.NN
solvent | isopropyl alcohol | 30 mL | C(C)(C)O | C3H8O
catalyst | iron (III) chloride | 0.19 g | [Fe](Cl)(Cl)Cl
product | 4′-methyl-biphenyl-3-ylamine | 1.55 g, 95% | CC1=CC=C(C=C1)C1=CC(=CC=C1)N | C13H13N
